US08975254B2
c) (S)—N-(2-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propyl)-3-(pyridin-3-yl)-1H-pyrazole-5-carboxamide
The title compound was synthesized from (S)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile (0.277 g, 1.06 mmol), 3-(pyridin-3-yl)-1H-pyrazole-5-carboxylic acid (0.2 g, 1.06 mmol), HOBt (0.17 g, 1.27 mmol), DIPEA (0.22 mL, 1.27 mmol) and EDCI (0.243 g, 1.27 mmol) using DCM as the solvent using the method of Example 34(d). Yield 0.13 g. 1H NMR (400 MHz; d6-DMSO): δ 1.50 (d, 3H), 3.66 (m, 2H), 4.72 (m, 1H), 7.00 (d, 1H), 7.20 (s, 1H), 7.48 (m, 1H), 7.78 (m, 2H), 7.93 (d, 1H), 8.13 (m, 1H), 8.55 (dd, 1H), 8.97 (s, 1H).

reactant | (S)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile | 1.06 mmol, 0.277 g | NC[C@H](C)N1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)F | C13H12F2N4
reactant | 3-(pyridin-3-yl)-1H-pyrazole-5-carboxylic acid | 1.06 mmol, 0.2 g | N1=CC(=CC=C1)C1=NNC(=C1)C(=O)O | C9H7N3O2
reactant | HOBt | 1.27 mmol, 0.17 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.27 mmol, 0.22 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 1.27 mmol, 0.243 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)—N-(2-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propyl)-3-(pyridin-3-yl)-1H-pyrazole-5-carboxamide | C(#N)C1=C(C=C(C=C1F)C1=NN(C=C1)[C@H](CNC(=O)C1=CC(=NN1)C=1C=NC=CC1)C)F | C22H17F2N7O
